US08168833B2
To a solution of N,N-diethyl-4-bromo-benzamide (128 mg, 0.5 mmol) (see structural formula at entry 3 of Table 1) and Cp2ZrCl2(207 mg, 0.7 mmol, 1.4 eq.) in THF (3 mL) at RT was rapidly added a 1 M tetrahydrofuran (THF) solution of LiAlH(Ot-Bu)3 (0.7 mL, 0.7 mmol, 1.4 eq.). After addition, thin layer chromatography (TLC) using EtOAc/Hexanes showed the substrate had been consumed completely. The reaction was quenched by distilled H2O immediately. Dilute acid (0.5 N HCl in distilled water) was added until the pH was less than 5. Then EtOAc was added (3×10 mL) and the mixture was extracted. Combined organic layers were washed with brine, dried over MgSO4 and concentrated via evaporation under reduced pressure. Initial purification of the crude product was performed by passing the solution through a filter of silica gel (silica gel 60, 230-400 mesh). Purity was then checked by TLC. If further purification was needed, it was performed by flash column chromatography (silica gel 60, 230-400 mesh) using EtOAc/hexanes as eluent. 4-Bromobenzaldehyde (89 mg, 96% yield) was obtained as a colorless solid. Its melting point was determined to be 55-56° C. (hexanes).

reactant | N,N-diethyl-4-bromo-benzamide | 0.5 mmol, 128 mg | C(C)N(C(C1=CC=C(C=C1)Br)=O)CC | C11H14BrNO
solvent | THF | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | 4-Bromobenzaldehyde | 89 mg, 96% yield | BrC1=CC=C(C=O)C=C1 | C7H5BrO
